US05019597
Preparation of N-tricyclo[3.3.1.13,7 ]dec-1-yl-2-propenamide
A solution of acryloyl chloride (4.05 ml, 0.05 mole) in ethyl ether (25 ml) was added to a cold (+5° C.) soltuion of 1-adamantaneamine (7.65 g, 0.05 mole) and triethylamine (15.3 ml, 0.11 mole) in ethyl ether (300 ml) and the solution stirred for 72 hours at room temperature. The solvent was removed on a rotary evaporator. The residue was dissoled in ethyl acetate (100 ml), washed with 10 percent hydrochloric acid (100 ml) and water (50 ml), dried over sodium sulfate, filtered and the solvent removed in vacuo leaving an oily solid which was crystallized from methanol-ethyl acetate-hexane. The structure was confirmed by NMR.

reactant | acryloyl chloride | 0.05 mole, 4.05 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | 1-adamantaneamine | 0.05 mole, 7.65 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | triethylamine | 0.11 mole, 15.3 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | N-tricyclo[3.3.1.13,7 ]dec-1-yl-2-propenamide | C12(CC3CC(CC(C1)C3)C2)NC(C=C)=O | C13H19NO
